US06740662B1
To a 10 ml tert-butanol solution containing 500 mg of 4-(3-chlorophenyl)-1-ethyl-3-(3-hydroxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one were added 300 mg of sodium tert-butoxide and 0.2 ml of methyl iodide successively, followed by stirring under heating at an oil bath temperature of 60° C. for 2 hours. After the reaction mixture was cooled to room temperature, water and 1M hydrochloric acid were added thereto, and the whole was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by a silica gel column chromatography (hexane-ethyl acetate) and then recrystallized from diisopropyl ether to obtain 180 mg of 4-(3-chlorophenyl)-1-ethyl-3-(3-methoxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one as colorless crystals.

reactant | 4-(3-chlorophenyl)-1-ethyl-3-(3-hydroxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one | 500 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCO | C20H21ClN2O2
reactant | sodium tert-butoxide | 300 mg | CC(C)([O-])C.[Na+]
reactant | methyl iodide | 0.2 ml | CI | CH3I
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | O | H2O
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 4-(3-chlorophenyl)-1-ethyl-3-(3-methoxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one | 180 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCOC | C21H23ClN2O2
